US05698554
1.1 ml of a 10% sodium carbonate aqueous solution was added to 15 ml of a methanol solution containing 510 mg of 4-[4-(acetylamino)butyl]-1-(2-butenoyl)benzene and 1.69 g of acetocyanhydrin, and the mixture was refluxed under heating for 2 hours. The solvent was removed, and the residue was purified by silica gel column chromatography (eluent: chloroform-methanol (40:1)) to obtain 450 mg of 4-[4-(acetylamino)butyl]-1-(3-cyanobutanoyl)benzene.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-[4-(acetylamino)butyl]-1-(2-butenoyl)benzene | 510 mg | C(C)(=O)NCCCCC1=CC=C(C=C1)C(C=CC)=O | C16H21NO2
reactant | acetocyanhydrin | 1.69 g | CC(C#N)O | C3H5NO
solvent | methanol | 15 ml | CO | CH4O
product | 4-[4-(acetylamino)butyl]-1-(3-cyanobutanoyl)benzene | 450 mg | C(C)(=O)NCCCCC1=CC=C(C=C1)C(CC(C)C#N)=O | C17H22N2O2
